US07868030B2
2.5 M n-Butyllithium, in tetrahydrofuran, (1.42 ml, 3.54 mmol, 1.1 equiv.) was added dropwise to a solution of bromobenzene (0.34 ml, 3.22 mmol, 1.0 equiv.) in dry tetrahydrofuran (18 ml), under nitrogen at −78° C. and the mixture stirred for 30 minutes. Zinc chloride (0.48 g, 3.54 mmol, 1.1 equiv.) was added and the mixture allowed to warm to room temperature while stirring for 2 hours. Palladium tetrakistriphenylphosphine (0.19 g, 0.16 mmol, 0.05 equiv.) and a solution of 5-bromo-2-iodo-1,3-dimethyl-benzene (1.00 g, 3.22 mmol, 1.0 equiv.) in tetrahydrofuran (2 ml) were added and the mixture stirred at room temperature for 16 hours. The tetrahydrofuran was evaporated under reduced pressure and the crude product purified by column chromatography (SiO2, heptane). The fractions were combined to afford 4-bromo-2,6-dimethylbiphenyl, 278 mg (33% yield) as a clear oil δH (400 MHz; d4-methanol) 7.28-7.39 (3H, m), 7.18 (2H, s), 7.03 (2H, d), 1.90 (6H, s).

reactant | n-Butyllithium | 2.5 M | C(CCC)[Li]
reactant | bromobenzene | 3.22 mmol, 0.34 ml, 1.0 equiv. | BrC1=CC=CC=C1 | C6H5Br
reactant | 5-bromo-2-iodo-1,3-dimethyl-benzene | 3.22 mmol, 1.00 g, 1.0 equiv. | BrC=1C=C(C(=C(C1)C)I)C | C8H8BrI
solvent | tetrahydrofuran | 18 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
catalyst | Zinc chloride | 3.54 mmol, 0.48 g, 1.1 equiv. | [Cl-].[Zn+2].[Cl-]
solvent | tetrahydrofuran | 3.54 mmol, 1.42 ml, 1.1 equiv. | O1CCCC1 | C4H8O
product | 4-bromo-2,6-dimethylbiphenyl | 33% yield | BrC1=CC(=C(C(=C1)C)C1=CC=CC=C1)C | C14H13Br
